US08664220B2
Step 3: 1-{4′-[4-(2-Benzylamino-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
1-[4′-(3-Methyl-4-oxiranyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (0.100 g, 0.26 mmol), benzylamine (0.034 mL, 0.31 mmol) and N-methylpyrrolidine (5 mL) were combined in a flask and stirred at 85° C. overnight. An additional portion of benzylamine (0.050 mL) was added and the reaction continued to stir at 85° C. for 48 hours. The reaction mixture was cooled and submitted to standard aqueous workup to give the title compound.

reactant | 1-[4′-(3-Methyl-4-oxiranyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 0.26 mmol, 0.100 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C1OC1 | C24H23NO4
reactant | benzylamine | 0.31 mmol, 0.034 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | N-methylpyrrolidine | 5 mL | CN1CCCC1 | C5H11N
reactant | benzylamine | 0.050 mL | C(C1=CC=CC=C1)N | C7H9N
product | 1-{4′-[4-(2-Benzylamino-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(CNCC1=CC=CC=C1)O | C31H32N2O4
